US06713474B2
cis-7-[3-(4-methylpiperazino)cyclohexyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine 0.80 g (0.0017 mol) in isopropanol was treated with 0.5 ml 12M hydrochloric acid (0.006 mol). The resulting solid was filtered to give cis-7-[3-(4-methylpiperazino)cyclohexyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine tri-hydrochloride as a hygroscopic solid until dried at 80° C./3 mbar to constant weight. (0.75 g, 0.0011 mol) m.p. 224.5-226.5 (dec).

reactant | cis-7-[3-(4-methylpiperazino)cyclohexyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.0017 mol, 0.80 g | CN1CCN(CC1)[C@H]1C[C@H](CCC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C29H34N6O
reactant | hydrochloric acid | 0.006 mol, 12M, 0.5 ml | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | cis-7-[3-(4-methylpiperazino)cyclohexyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine tri-hydrochloride | Cl.Cl.Cl.CN1CCN(CC1)[C@H]1C[C@H](CCC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C29H34N6O.3ClH/c1-33-14-16-34(17-15-33)22-6-5-7-23(18-22)35-19-26(27-28(30)31-20-32-29(27)35)21-10-12-25(13-11-21)36-24-8-3-2-4-9-24;;;/h2-4,8-13,19-20,22-23H,5-7,14-18H2,1H3,(H2,30,31,32);3*1H/t22-,23+;;;/m1.../s1
